2174-01-21 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pat and Dr. [**First Name (STitle) **] [**Name (STitle) 11044**] him - lots of blood,
   - Started treatment PCP tx dose bactrim
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Propofol - [**2174-1-20**] 08:00 PM
   Midazolam (Versed) - [**2174-1-20**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-1-21**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 67 (66 - 91) bpm
   BP: 118/48(74) {104/43(65) - 161/68(102)} mmHg
   RR: 22 (11 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 16 (13 - 17)mmHg
   Total In:
                                                                  1,192 mL
                                                                  1,492 mL
   PO:
   TF:
   IVF:
                                                                    347 mL
                                                                  1,218 mL
   Blood products:
                                                                    845 mL
                                                                    274 mL
   Total out:
                                                                    355 mL
                                                                    130 mL
   Urine:
                                                                    355 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                  1,362 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 350 (350 - 500) mL
   RR (Set): 31
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 33 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.20/75/73.[**Numeric Identifier 252**]/27/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 122
   Physical Examination
   GENERAL: Elderly Caucasian Male intubated laying down in bed
   HEENT: PERRLA, MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   GROIN: Femoral central noted in rt groin with pulsatile wave form.
   EXTREMITIES: 2+ edema noted b/l LE to calf.
   SKIN: Multiple ecchymoses noted.
   NEURO: Intubated, sedated.
   Labs / Radiology
   235 K/uL
   6.0 g/dL
   142 mg/dL
   3.0 mg/dL
   27 mEq/L
   5.2 mEq/L
   82 mg/dL
   101 mEq/L
   137 mEq/L
   19.3 %
   11.8 K/uL
                             [**2174-1-20**]  02:30 PM
                             [**2174-1-20**]  02:40 PM
                             [**2174-1-20**]  04:12 PM
                             [**2174-1-20**]  04:34 PM
                             [**2174-1-20**]  11:35 PM
                             [**2174-1-21**]  03:20 AM
                             [**2174-1-21**]  03:32 AM
   WBC
   16.7
   11.8
   Hct
   25.4
   19.3
   Plt
   264
   235
   Cr
   3.0
   3.0
   TropT
   0.06
   TCO2
   30
   30
   32
   31
   Glucose
   149
   117
   142
   Other labs: PT / PTT / INR:21.2/32.4/2.0, CK / CKMB /
   Troponin-T:175/11/0.06, ALT / AST:19/34, Alk Phos / T Bili:53/0.4,
   Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:592 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 11039**] is a 77 y.o. Male w/ h.o. diastolic dysfunction, A.
   fib/flutter s/p recent PVI, COPD, asthma, ?IPF, HTN, initially
   presented to [**Hospital1 **] [**Location (un) 3**] w/ [**1-8**] week h.o of lower extremity edema,
   shortness of breath. Intubated for hypercapneic respiratory distress.
   Transferred for further hypoxic work-up whether this is COPD
   exacerbation, PNA, CHF exacerbation.
 RESPIRATORY FAILURE, ACUTE (NOT [**Month/Day (2) **]/[**Doctor Last Name 76**])
   Pt has had underlying hypoxia of unknown etiology over the past month
   with a requirement of 5L O2 particularly during activity. Pt noted to
   be hypoxic at outside hospital eventually requiring intubation.
   Etiology of hypoxic respiratory failure includes possible infection,
   cardiogenic pulmonary edema, COPD, IPF exacerbation. Given recent Echo
   performed at [**Hospital3 **] and clinical history, have low suspicion
   that this is Cardiogenic pulmonary edema. Infection needs to also be
   considered particularly [**Hospital3 609**], PCP given his extended exposure to
   steroids. Have low suspicion for bacterial given the negative sputum
   cx. Pt had Vancomycin prior to transfer, given his renal function his
   next dose would not be for 48 hours. IPF exacerbation needs to also be
   considered given the rapidity of decline as well as his ?h.o. IPF. Pt's
   plateau pressures are also concerning given their level of upper 30s,
   suggest poorly compliant lungs. Suspect [**Last Name (LF) **], [**First Name3 (LF) 124**] continue on 4-6cc/kg
   for volume control, will also place esophageal balloon to determine
   transpleural pressures to determine whether alveolar pressures are
   appropriately high.
   - f/u BAL cx (pending), gram stain (-), PCP, [**Name10 (NameIs) 609**] culture, acid fast,
   CMV all pending
   - continue on Methylprednisolone
   - looks clinically volume overloaded, unsure what role it is playing in
   his overall picture but would consider talking to renal about  CVVH if
   we want to diurese.
   - Sedate for synchrony, may have to paralyze, abdominal girth increased
   throughout the night, decreased with NG suction (which didn
t pull out
   very much liquid.)
   - set target volume at 400cc/hr x 26 bpm
   - place esophageal balloon to determine transpleural pressures
   - Chest CT?
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   On admission pt noted to have a Creatinine of 1.8 which trended up to
   3.0 in the setting of diuresis. During hospitalization at OSH it was
   unclear as to whether pt is fluid overloaded given his hypoxia and
   increasing lower extremity edema versus hypovolemic given the poor
   response in urine output to furosemide. On examination today pt appears
   dry with poor urine output will hold off on diuresis for the time
   bring.
   - Urine lytes are consistent with intrinsic renal faillure
   - Urine output dwindling
   - Consult renal  re: CVVH
   .
Acute on  chronic ANEMIA,
   Patient came in with a supratherapeutic INR, and had three procedures,
   a central line, and a-line, and a removal of a femoral triple lumen in
   his artery.  While he had some slightly greater than expected bleeding
   with the first two procedures, he had profound and difficult to control
   bleeding.  This combined with some hemoconcentration on admission as by
   history he was diuresed agressively at [**Hospital1 5**] [**Location (un) 3**] likely explain his
   acute drop from 25->19.  For his elevated INR/bleeding he received 5
   total units of FFP, and is in the process of receiving two units.  He
   has developed a large hematoma in his right thigh, and if his hct
   continues to drop or remains persistently transfusion non-responsive, I
   would have a low threshold for imaging to looking for arterial injury
   from the triple lumen.
   Xfusion goal>21
   Q4 HCT, Q8 coags
   FFP and vitamin K if INR>3.0
   .
   Chronic Anemia:
   Pt has history of chronic anemia and received 2u of PRBC at OSH. Per
   report pt underwent blding work up including consultation with surgery
   and GI for possible RP bleed given the recent PVI versus GI bld. Pt was
   NG lavage negative, guaiac negative, CT abd/pelvis was also negative
   for RP bld. Pt Hct has remained stable.
   - continue to trend Hct daily
   - will keep active type and cross
   .
 ATRIAL FLUTTER (AFLUTTER)
   Pt recently underwent PVI for new onset A. flutter, currently in sinus
   rhythm. INR was noted to be supratherapeutic, currently being reversed
   given central line placement, A-line removal. Will change SR diltiazem
   to QID diltiazem.
   - divide 180mg SR Diltiazem into Diltiazem 45mg QID
   - reverse INR for procedures
   - consider restarting Coumadin after lines are placed
   .
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   Continue on home regimen of Simvastatin
   ICU Care
   Nutrition: NPO, will start TF in AM, nutrition consult in AM. Replete
   lytes PRN
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-1-20**] 03:02 PM
   20 Gauge - [**2174-1-20**] 03:15 PM
   Multi Lumen - [**2174-1-20**] 09:30 PM
   Arterial Line - [**2174-1-21**] 03:10 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending Resolution of Symptoms

2174-01-22 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   - chest CT showed severe interstitial disease and volume overload, read
   pending
   - R groin exam stable
   - repeat TTE showed mild LVH, LVEF>55%, increased LVEDP (grade
   II/moderate diastolic dysfunction), mild MR, moderate pulmonary HTN,
   mild RV dilation
   - PCP negative so [**Name Initial (PRE) **]/Ced bactrim
   - treating aggressively: broad abx (vanc/cefepime), high dose steroids
   (250 solumedrol q12h), aggressive diuresis with CVVH
   - fam aware of poor prognosis and likely will stop if no improvement
   over weekend
   - Hct stable 24--> 22 --> 22
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2174-1-21**] 10:21 AM
 TRANSTHORACIC ECHO - At [**2174-1-21**] 11:00 AM
 ARTERIAL LINE - STOP [**2174-1-21**] 05:59 PM
 DIALYSIS CATHETER - START [**2174-1-21**] 06:25 PM
 ARTERIAL LINE - START [**2174-1-21**] 07:56 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-1-21**] 08:00 PM
   Cefipime - [**2174-1-21**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-1-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-1-22**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 82 (67 - 82) bpm
   BP: 119/48(71) {100/40(61) - 119/48(71)} mmHg
   RR: 31 (9 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 12 (9 - 19)mmHg
   Total In:
                                                                  3,921 mL
                                                                  1,490 mL
   PO:
   TF:
   IVF:
                                                                  2,366 mL
                                                                  1,490 mL
   Blood products:
                                                                  1,415 mL
   Total out:
                                                                    881 mL
                                                                  1,939 mL
   Urine:
                                                                    189 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,040 mL
                                                                   -448 mL
   Respiratory support
   Ventilator mode: VOL/AC
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 31
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 42 cmH2O
   Plateau: 34 cmH2O
   SpO2: 97%
   ABG: 7.05/113/178/30/-2
   Ve: 10.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   GENERAL: Elderly Caucasian Male intubated laying down in bed
   HEENT: PERRLA, MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   GROIN: Femoral central noted in rt groin with pulsatile wave form.
   EXTREMITIES: 2+ edema noted b/l LE to calf.
   SKIN: Multiple ecchymoses noted.
   NEURO: Intubated, sedated, not responding.
   Labs / Radiology
   204 K/uL
   7.3 g/dL
   161 mg/dL
   3.4 mg/dL
   30 mEq/L
   5.6 mEq/L
   75 mg/dL
   97 mEq/L
   136 mEq/L
   23.5 %
   14.2 K/uL
        [image002.jpg]
                             [**2174-1-21**]  09:22 AM
                             [**2174-1-21**]  09:57 AM
                             [**2174-1-21**]  10:54 AM
                             [**2174-1-21**]  02:55 PM
                             [**2174-1-21**]  08:00 PM
                             [**2174-1-21**]  08:07 PM
                             [**2174-1-22**]  12:41 AM
                             [**2174-1-22**]  01:02 AM
                             [**2174-1-22**]  03:09 AM
                             [**2174-1-22**]  03:20 AM
   WBC
   13.9
   14.2
   Hct
   25.2
   24.8
   22.8
   22.1
   23.5
   Plt
   222
   204
   Cr
   3.4
   3.8
   4.0
   3.6
   3.4
   TCO2
   28
   33
   27
   33
   Glucose
   132
   106
   125
   177
   161
   Other labs: PT / PTT / INR:18.4/29.8/1.7
   Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:9.6 mg/dL
GRAM STAIN (Final [**2174-1-20**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2174-1-21**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2174-1-21**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): P
   Assessment and Plan
   Mr. [**Known lastname 11039**] is a 77 y.o. Male w/ h.o. diastolic dysfunction, A.
   fib/flutter s/p recent PVI, COPD, asthma, ?IPF, HTN, initially
   presented to [**Hospital1 **] [**Location (un) 3**] w/ [**1-8**] week h.o of lower extremity edema,
   shortness of breath. Intubated for hypercapneic respiratory distress.
   Transferred for further hypoxic work-up whether this is COPD
   exacerbation, PNA, CHF exacerbation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Pt has had underlying hypoxia of unknown etiology over the past month
   with a requirement of 5L O2 particularly during activity. Pt noted to
   be hypoxic at outside hospital eventually requiring intubation.
   Etiology of hypoxic respiratory failure likely multifactorial including
   possible infection, cardiogenic pulmonary edema, COPD, IPF
   exacerbation. Pt does appear volume overloaded, and fluid is likely one
   component of lung process. There is no evidence for infection on sputum
   or bronch samples, however cannot rule out infectious component. IPF
   exacerbation needs to also be considered given the rapidity of decline.
   Pt's plateau pressures are also concerning given their level of upper
   30s, suggest poorly compliant lungs.
   - Has ARDS-like picture, will continue on 4-6cc/kg for volume control,
   PEEP 16
   - unable to obtain good recordings from esophageal balloon so D/Ced
   - f/u BAL cx and CMV cx, other studies negative, however patient has
   leukocytosis and will continue empiric HAP tx for now D2
   - cont vanc/cefepime and monitor vanco trough while on CVVH
   - continue on Methylprednisolone for possible IPF exacerbation
   - diuresis with CVVH
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   On admission pt noted to have a Creatinine of 1.8 which trended up to
   3.0 in the setting of diuresis. Likely ischemic ATN. Patient anuric
   with worsening Cr, K, Ca-phos product yesterday, initiated on CVVH. Had
   precipitious drop in Ca, thought to be [**2-8**] citrate toxicity but unclear
   since total Ca was also low. Held citrate but line clotted off despite
   higher flows, will restart citrate and change machine.
   - appreciate renal recs
   - CVVH goal as negative as tolerated
   .
Acute on  chronic ANEMIA,
   Patient came in with a supratherapeutic INR, and had three procedures,
   a central line, and a-line, and a removal of a femoral triple lumen in
   his artery.  While he had some slightly greater than expected bleeding
   with the first two procedures, he had profound and difficult to control
   bleeding.  This combined with some hemoconcentration on admission as by
   history he was diuresed agressively at [**Hospital1 5**] [**Location (un) 3**] likely explain his
   acute drop from 25->19.  Hct now stable x 24 hours. CT done to assess
   right thigh and no bleed.
   - [**Hospital1 **] Hct checks, Xfusion goal>21
   .
   Chronic Anemia:
   Pt has history of chronic anemia and received 2u of PRBC at OSH. Per
   report pt underwent blding work up including consultation with surgery
   and GI for possible RP bleed given the recent PVI versus GI bld. Pt was
   NG lavage negative, guaiac negative, CT abd/pelvis was also negative
   for RP bld. Pt Hct has remained stable.
   - continue to trend Hct
   - will keep active type and cross
   .
   #. Diastolic CHF: TTE showed moderate diastolic dysfunction and signs
   of right heart strain and pulmonary HTN, likely due to interstitial
   fibrosis.
   - cont diuresis with CVVH
   .
 ATRIAL FLUTTER (AFLUTTER)
   Pt recently underwent PVI for new onset A. flutter, currently in sinus
   rhythm. INR was noted to be supratherapeutic, currently being reversed
   given central line placement, A-line removal. Will change SR diltiazem
   to QID diltiazem.
   - can hold dilt as needed to allow more room for diuresis
   - holding  Coumadin
   .
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   Continue on home regimen of Simvastatin
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-1-20**] 03:02 PM
   20 Gauge - [**2174-1-20**] 03:15 PM
   Multi Lumen - [**2174-1-20**] 09:30 PM
   Arterial Line - [**2174-1-21**] 03:10 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code- discussion with family [**2174-1-21**] was leaning
   towards DNR/DNI since patient and family would not want extreme
   measures if pt would not return to prior baseline
   Disposition: [**Hospital Unit Name 4**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 11039**] and reviewed the historical, lab, and
   imaging data. I was present for the key portion of the services
   provided and I agree with Dr [**Last Name (STitle) 659**]
s note above, including her findings
   and plan of care.  I have also met with the [**Known lastname 11039**] family and explained
   my assessment of his pulmonary condition and prognosis.
   Mr [**Known lastname 11039**] has diffuse dense pulmonary opacities in the setting of
   severe COPD and IPF with chronic severe hypoxemia.  Though he has
   diastolic CHF,  this doesn
t seem to be CHF clinically.  It could be a
   flare of IPF thought it is not responding to high dose steroids. We
   doubt it
s an infection as he
s on antibiotics without improvement and
   BAL has shown no pathogen.  He is at the limits of mechanical
   ventilation with very stiff lungs even on low VT ventilation, and
   despite a MV of 11 L/min his dead space is so bad that his PC02 is over
   100 and pH is only 7.05.  I believe his lungs are irretrievably damaged
   and that the chance of his attaining ventilator independence is very
   low
 lower still his chance of ever going home and still lower still
   of having a reasonable respiratory quality of life at home.  The
   patient
s wife (a nurse) and family seem ready to move to comfort
   measures.  We will work with respiratory therapy to see how this can be
   best  and most sensitively carried out.
   60 min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2174-1-22**] 14:28 ------